US05556864
67(a) (4R)-4-Benzyloxy-1-t-butoxycarbonyl-2-{2-[2-(3-methylphenyl) ethyl]phenoxymethyl}pyrrolidine
Following a procedure similar to that described in Example 40(a), 400 mg of 2-[2-(3-methylphenyl)ethyl]phenol (prepared as described in Preparation 25), 232 mg of potassium t-butoxide and 870 mg of (4R)-4-benzyloxy-1-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)pyrrolidine were reacted in 25 ml of dimethylacetamide. The mixture was then worked up as described in Example 40(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 560 mg (yield 59%) of the title compound as a colorless oil.

reactant | 2-[2-(3-methylphenyl)ethyl]phenol | 400 mg | CC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C15H16O
reactant | potassium t-butoxide | 232 mg | CC(C)([O-])C.[K+]
reactant | (4R)-4-benzyloxy-1-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)pyrrolidine | 870 mg | C(C1=CC=CC=C1)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C24H31NO6S
solvent | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
product | (4R)-4-Benzyloxy-1-t-butoxycarbonyl-2-{2-[2-(3-methylphenyl) ethyl]phenoxymethyl}pyrrolidine | 560 mg, yield 59% | C(C1=CC=CC=C1)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)COC1=C(C=CC=C1)CCC1=CC(=CC=C1)C | C32H39NO4
